US07989444B2
Preparation 47: 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine
1,1-dimethylethyl-2-methyl-6,7,9,10-tetrahydro-8H-[1,3]thiazolo[5,4-g][3]benzazepine-8-carboxylate (167 mg), was dissolved in DCM (5 ml) and added to TFA (2 ml). The mixture was stirred at rt. for 1 h and then concentrated affording a 2:1 mixture of title compound and its regioisomer (139 mg) that was further used as such.

reactant | 1,1-dimethylethyl-2-methyl-6,7,9,10-tetrahydro-8H-[1,3]thiazolo[5,4-g][3]benzazepine-8-carboxylate | 167 mg | CC(C)(C)C1=CC2=C(CCN(CC2)C(=O)[O-])C2=C1N=C(S2)C
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine | CC=1SC2=CC3=C(CCNCC3)C=C2N1 | C12H14N2S
